US08242104B2
To a solution of (E)-3-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-2-methyl-acrylic acid methyl ester (181 mg, 0.46 mmol) in IMS (10 mL) was added palladium on carbon (200 mg, 10%). The reaction was stirred at RT under an atmosphere of hydrogen for 16 h. More palladium on carbon (200 mg, 10%) was added and the reaction stirred at RT under an atmosphere of hydrogen for a further 16 h. The reaction mixture was filtered and the filtrate concentrated in vacuo to give 3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-2-methyl-propionic acid methyl ester as a yellow oil (150 mg, 82%). LCMS: RT=3.40 min, [M+H]+=396.

reactant | (E)-3-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-2-methyl-acrylic acid methyl ester | 0.46 mmol, 181 mg | COC(\C(=C\C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)\C)=O | C21H23N5O3
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-2-methyl-propionic acid methyl ester | 150 mg, 82% | COC(C(CC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C)=O | C21H25N5O3
